US05554767
To a solution of ethyl mercaptoacetate (9.0 mL, 83.2 mmol) in 15 mL of anhydrous ether under nitrogen atmosphere was added trimethylsilyl chloride (12.0 mL, 94.6 mmol) followed by triethyl amine (13.0 mL, 93.3 mmol) slowly. White precipitates were formed upon addition of triethyl amine. The suspension was allowed to stir at room temperature overnight. The white precipitate was removed by filtration. The filtrate was concentrated on a rotavap. The residue oil was distilled at 40° C. (0.5 mm Hg) to give 10.9 g (68%) of ethyl (trimethylsilylthio)acetate as a colorless oil. 1HNMR (300 MHz, CDCl3) δ4.18 (2H, q, J=7.19 Hz), 3.20 (2H, s), 1.29 (3H, t, J=7.12 Hz), 0.35 (9H, s).

reactant | ethyl mercaptoacetate | 83.2 mmol, 9.0 mL | SCC(=O)OCC | C4H8O2S
reactant | trimethylsilyl chloride | 94.6 mmol, 12.0 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethyl amine | 93.3 mmol, 13.0 mL | C(C)N(CC)CC | C6H15N
solvent | ether | 15 mL | CCOCC | C4H10O
product | ethyl (trimethylsilylthio)acetate | 10.9 g, 68% | C[Si](SCC(=O)OCC)(C)C | C7H16O2SSi
